US07951810B2
Step a: 6-chloro-9-[(6aR,8R,9S,9aR)-2,2,4,4-Tetraisopropyl-9-methoxytetrahydro-6H-furo-[3,2-f][1,3,5,2,4]trioxadisilocin-8-yl]-9H-purine
To a suspension of (6aR,8R,9S,9aS)-8-(6-chloro-9H-purin-9-yl)-2,2,4,4-tetraisopropyltetrahydro-6H-furo[3,2-f][1,3,5,2,4]trioxadisilocin-9-ol (300 mg, 0.57 mmol) and Cs2CO3 (1.86 g, 5.7 mmol) in DMF (5.7 mL) at 0° C. was added MeI (350 μL, 5.7 mmol) dropwise. The suspension was stirred for 3 hours, quenched with saturated aqueous NH4Cl and CH2Cl2. The layers were separated and the aqueous layer was extracted with CH2Cl2 (2×). The combined organic layers were dried over Na2SO4, filtered, and concentrated in vacuo. The crude material was purified by silica gel chromatography (0 to 20% EtOAc/hexanes) to afford 221 mg (71%) of the title compound.

reactant | (6aR,8R,9S,9aS)-8-(6-chloro-9H-purin-9-yl)-2,2,4,4-tetraisopropyltetrahydro-6H-furo[3,2-f][1,3,5,2,4]trioxadisilocin-9-ol | 0.57 mmol, 300 mg | ClC1=C2N=CN(C2=NC=N1)[C@H]1[C@H]([C@@H]2O[Si](O[Si](OC[C@H]2O1)(C(C)C)C(C)C)(C(C)C)C(C)C)O | C22H37ClN4O5Si2
reactant | Cs2CO3 | 5.7 mmol, 1.86 g | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | MeI | 5.7 mmol, 350 μL | CI | CH3I
solvent | DMF | 5.7 mL | CN(C)C=O | C3H7NO
product | 6-chloro-9-[(6aR,8R,9S,9aR)-2,2,4,4-Tetraisopropyl-9-methoxytetrahydro-6H-furo-[3,2-f][1,3,5,2,4]trioxadisilocin-8-yl]-9H-purine | 221 mg, 71% | ClC1=C2N=CN(C2=NC=N1)[C@H]1[C@H]([C@@H]2O[Si](O[Si](OC[C@H]2O1)(C(C)C)C(C)C)(C(C)C)C(C)C)OC | C23H39ClN4O5Si2
